US07223788B2
[1-(4-Aminophenyl)pyrrolidin-3-yl]dimethylamine
Dimethylpyrrolidin-3-ylamine was reacted with 4-fluoronitrobenzene by method C, and the product was subsequently hydrogenated by method B. This resulted in the product with the molecular weight of 205.31 (C12H19N3); MS (ESI): 206 (M+H+).

reactant | Dimethylpyrrolidin-3-ylamine | CN(C1CNCC1)C | C6H14N2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | [1-(4-Aminophenyl)pyrrolidin-3-yl]dimethylamine | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
